Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vaginal bulge
 
Major Surgical or Invasive Procedure:
Sacrospinous suspension
Anterior/posterior repair
TVT
Cystoscopy

 
History of Present Illness:
She complains of bilateral lower abdominal cramps pain. A recent 
CT was negative for significant findings other than renal cyst 
and calcified fibroids. She also has low back pain. She had an 
accidental fall on to her lower back recently. 

She continues to have occasional urge incontinence. The 
incontinence began 3 months ago. Her daytime frequency is every 
2 or 3 hours. She does not leak with coughing or sneezing. She 
has no difficulty starting or maintaining a urine stream. She 
has no nocturia x2 or 3. She has no recent history of UTI. She 
does have not have constipation or fecal incontinence. She has 
not been sexually active.
 
Past Medical History:
OB history: G3P2, vaginal birth x 2, Largest baby 9lbs

Gyn history: abnl pap smear, ascus negative high risk HPV, urge 
incontinence, cystocele, rectocele 

PMH: 
- HTN
- HL
- Disc disorder of cervical region
- OA
- HIV
- monoclonal gammopathy
- OA knee
- breast cancer

PSH
- s/p total knee replacement
- s/p lumpectomy
 
Social History:
___
Family History:
- family history of colon cancer requiring screening colonoscopy
- no known bladder problems or prolapse 
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
Ext: no TTP
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing a sacrospinous suspension, anterior and 
posterior repair, and tension free vaginal tape surgery for 
correction of stress urinary incontinence, cystocele, and 
uterine prolapse. Please see the operative report for full 
details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV morphine and 
acetaminophen. 

On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows:
1. Instilled 300 mL, voided 350 mL with 0 mL residual.

By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.
 
Medications on Admission:
- HCTZ 50mg 
- Lisinopril 10mg 
- Tramadol 50mg 
- Atripla 
- vitamin D
 
Discharge Medications:
received prescriptions in the office 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uterine prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___